US07566739B2
1(d) N-{4-[(1R)-1-AMINOETHYL]-2-METHYLPHENYL}METHANESULFONAMIDE HYDROCHLORIDE
To N-[4-((1R)-1-{[(R)-tert-butylsulfinyl]amino}ethyl)-2-methylphenyl]methanesulfonamide (530 mg, 1.60 mmol) was added HCl-methanol (2.0 M, 5.0 mL) and 1,4-dioxane (5.0 mL). The solution was stirred at room temperature for 30 minutes and then concentrated in vacuo. Diethyl ether was added to precipitate amine hydrochloride. The precipitate was then filtered and washed with diethyl ether (450 mg, quant) to furnish the title compound as a white solid.

reactant | N-[4-((1R)-1-{[(R)-tert-butylsulfinyl]amino}ethyl)-2-methylphenyl]methanesulfonamide | 1.60 mmol, 530 mg | C(C)(C)(C)[S@@](=O)N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C | C14H24N2O3S2
reactant | HCl methanol | 2.0 M, 5.0 mL | Cl.CO
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | N-{4-[(1R)-1-AMINOETHYL]-2-METHYLPHENYL}METHANESULFONAMIDE HYDROCHLORIDE | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)C | InChI=1S/C10H16N2O2S.ClH/c1-7-6-9(8(2)11)4-5-10(7)12-15(3,13)14;/h4-6,8,12H,11H2,1-3H3;1H/t8-;/m1./s1
